US04961868
A lithium hydroxystearate grease thickener was prepared by saponification of a mixture containing 12-hydroxystearic acid (50%) and the tri-glyceride thereof (25%) and 25% of C22 fatty acids containing no OH groups with lithium hydroxide in a mineral oil vehicle (ISO 150 viscosity grade of a 70/30 mixture of naphthenic and paraffinic stocks) at about 350° F. in a closed contactor. After depressuring and dehydration of the thickener in an open kettle sufficient mineral oil was added to reduce the thickener content to about 8%. The dropping point of this grease was 407° F. (208° C.). This grease contained no phosphorus or sulfur additives.

reactant | 12-hydroxystearic acid | OC(CCCCCCCCCCC(=O)O)CCCCCC | C18H36O3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | phosphorus | [P] | P
reactant | sulfur | [S] | S
product | lithium hydroxystearate | OC(C(=O)[O-])CCCCCCCCCCCCCCCC.[Li+] | InChI=1S/C18H36O3.Li/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17(19)18(20)21;/h17,19H,2-16H2,1H3,(H,20,21);/q;+1/p-1
